US08304443B2
Tert-butyl 6-(benzyloxy)-3-(difluoromethoxy)-indazole-1-carboxylate
Tert-butyl 6-(benzyloxy)-3-oxo-2,3-dihydroindazole-1-carboxylate (342 mg) which can be prepared according to the method described in Reference example 32, etc. and potassium carbonate (2.0887 g; manufactured by Sigma-Aldrich Co.) were suspended in dehydrated DMF (10 mL; manufactured by Kanto Chemical Co., Inc.), added with sodium chlorodifluoroacetic acid (853 mg; manufactured by Tokyo Chemical Industry, Co., Ltd.), and stirred at 80° C. for 12 hours. The reaction solution was added to water and extraction was carried out twice with ethyl acetate. The organic layer was washed twice with water and once with brine and dried over sodium sulfate. After the solvent was evaporated under reduced pressure, the residue was purified by column chromatography (“COLUMN-A”; n-hexane:ethyl acetate=100:0→87:13) to obtain the title compound (264.7 mg).

reactant | Tert-butyl 6-(benzyloxy)-3-oxo-2,3-dihydroindazole-1-carboxylate | 342 mg | C(C1=CC=CC=C1)OC1=CC=C2C(NN(C2=C1)C(=O)OC(C)(C)C)=O | C19H20N2O4
reactant | potassium carbonate | 2.0887 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium chlorodifluoroacetic acid | 853 mg | ClC(C(=O)O)(F)F.[Na]
reactant | water | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Tert-butyl 6-(benzyloxy)-3-(difluoromethoxy)-indazole-1-carboxylate | 264.7 mg | C(C1=CC=CC=C1)OC1=CC=C2C(=NN(C2=C1)C(=O)OC(C)(C)C)OC(F)F | C20H20F2N2O4
